US09062075B2
Intermediate-4: Synthesis of 1-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-2-en-1-one
To a stirred suspension of 2-((1,2,3,6-tetrahydropyridin-4-yl)methyl)thiazole hydrochloride (Intermediate-2) (1.57 g, 5.34 mmol) in anhydrous CH2Cl2 (20 mL) was added triethylamine (4.4 mL, 32.0 mmol), followed by acryloyl chloride (1.3 mL, 16.0 mmol) at 0° C. and the reaction mixture was allowed to stir at 20-35° C. for 16 h. Then the reaction mixture was diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The organic layer was washed with brine (50 mL), dried over anhydrous Na2SO4 and filtered. The filtrate was rotary evaporated under vacuum to get residue which was purified by column chromatography using a mixture of 20% ethyl acetate/hexane as an eluent to get the desired compound as a light brown liquid (320 mg, 26%); 1H NMR (400 MHz, DMSO-d6) δ 7.71 (d, J=3.4 Hz, 1H), 7.60 (d, J=2.9 Hz, 1H), 6.88-6.70 (m, 1H), 6.14-6.08 (m, 1H), 5.72-5.60 (m, 2H), 4.12-4.08 (m, 1H), 4.06-3.96 (m, 1H), 3.74-3.70 (m, 2H), 3.66-3.54 (m, 2H), 2.12-2.02 (m, 2H); ES-MS: 235.1 (M+1)+.

reactant | 2-((1,2,3,6-tetrahydropyridin-4-yl)methyl)thiazole hydrochloride | 5.34 mmol, 1.57 g | Cl.N1CCC(=CC1)CC=1SC=CN1
reactant | triethylamine | 32.0 mmol, 4.4 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 16.0 mmol, 1.3 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 1-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-2-en-1-one | 320 mg, 26% | S1C(=NC=C1)CC1=CCN(CC1)C(C=C)=O | C12H14N2OS
